US04178460
Preparation of p-(1,1,2,2-Tetrafluoroethoxy)phenylacetonitrile
Over a period of 40 minutes, a hot solution of 75.1 g (1.15 mol) of potassium cyanide in 140 ml of water is added to a mechanically stirred 75° C. solution of 160.99 g (0.561 mol) of p-(1,1,2,2-tetrafluoroethoxy)benzyl bromide and 500 ml of anhydrous 2B alcohol. The resulting mixture is refluxed for 1.75 hours. After sitting overnight the reaction mixture is poured into 500 ml of cold water and 400 ml of ether. The combined ether solutions are washed twice with 500 ml of water, dried with sodium sulfate, filtered, and then evaporated on a rotary evaporator to give 114.95 g of an oil. A vacuum distillation of this oil gives, as one distillation fraction, 37.10 g (28%) of the nitrile, boiling point 85° C. to 100° C. at 0.29 mm Hg.

reactant | potassium cyanide | 1.15 mol, 75.1 g | [C-]#N.[K+]
reactant | p-(1,1,2,2-tetrafluoroethoxy)benzyl bromide | 0.561 mol, 160.99 g | FC(C(F)F)(OC1=CC=C(CBr)C=C1)F | C9H7BrF4O
reactant | ether | 400 ml | CCOCC | C4H10O
solvent | water | 140 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | p-(1,1,2,2-Tetrafluoroethoxy)phenylacetonitrile | 114.95 g | FC(C(F)F)(OC1=CC=C(C=C1)CC#N)F | C10H7F4NO
